US08431603B2
Ethyl 3-chloro-4-iodo-5-methoxybenzoate
To ethyl 4-amino-3-chloro-5-methoxybenzoate (15.8 g, 68.8 mmol) were added acetonitrile (40 mL) and diiodomethane (22.2 mL, 275 mmol) in that order, and then the mixture was stirred at 70° C. and isoamyl nitrite (13.9 mL, 103 mmol) was added dropwise over a period of 10 minutes. The mixture was then stirred at 70° C. for 40 minutes. After returning the mixture to room temperature, the solvent in the mixture was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (mixture of n-heptane and ethyl acetate: n-heptane/ethyl acetate=8/1 then 5/1) to obtain the title compound (15.6 g, 45.8 mmol).

reactant | ethyl 4-amino-3-chloro-5-methoxybenzoate | 68.8 mmol, 15.8 g | NC1=C(C=C(C(=O)OCC)C=C1OC)Cl | C10H12ClNO3
reactant | acetonitrile | 40 mL | C(C)#N | C2H3N
reactant | diiodomethane | 275 mmol, 22.2 mL | ICI | CH2I2
reactant | isoamyl nitrite | 103 mmol, 13.9 mL | N(=O)OCCC(C)C | C5H11NO2
solvent | n-heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
product | Ethyl 3-chloro-4-iodo-5-methoxybenzoate | 45.8 mmol, 15.6 g | ClC=1C=C(C(=O)OCC)C=C(C1I)OC | C10H10ClIO3
